### PR TITLE
Specific case of Elementary equations for our theorem

### PR DESCRIPTION
**Pull request by amblafont**

### CODE REVIEW

File: Modules/SoftEquations/InitialEquationRep.v [hunk 1]
```diff
@@ -133,34 +134,38 @@ Section QuotientRepInit.
...
     assumption.
   Qed.
+
+  Corollary elementary_equations_preserve_initiality
+        {O : UU}(eq : O -> elementary_equation (Sig := Sig))
+          (eq' := fun o => soft_equation_from_elementary_equation epiSig epiSigpw (eq o))
+    : ∏ (R : Initial (rep_fiber_category Sig)) ,
+      (preserves_Epi (InitialObject  R : model _)) ->
+      Initial (precategory_model_equations eq').
+  Proof.
```
Comment (benediktahrens) [inline Modules/SoftEquations/InitialEquationRep.v]: Can we have a second version of this lemma that depends on AC, and instead does not have the hypothesis on preserving epis?

**Comment by benediktahrens** [comment]
@amblafont : conflict here.
